US07498338B2
N-(2-Hydroxybenzyl)acetamide
2-Methoxybenzylamine (822 mg, 6.0 mmol) in methanol (10 mL) was treated with acetic anhydride (613 mg, 6.0 mmol) at room temperature for 2 h. The volatiles were removed in vacuo. The residue was dissolved in CH2Cl2, cooled to 0° C., 1M solution of BBr3 in CH2Cl2 (12 mL, 12.0 mml) was added slowly. After addition was completed the reaction mixture was stirred at room temperature overnight, cooled to 0° C., methanol (3 mL) was added and after 10 min volatiles were removed in vacuo. The residue was dissolved in ethyl acetate, washed successively with aqueous NaHCO3 and H2O. The organic layer was dried over Na2SO4 filtered and concentrated. The residue was purified by silica gel flash chromatography (0-50% ethyl acetate in petroleum spirit) to give the subtitled compound (400 mg).

reactant | 2-Methoxybenzylamine | 6.0 mmol, 822 mg | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | acetic anhydride | 6.0 mmol, 613 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 10 mL | CO | CH4O
product | N-(2-Hydroxybenzyl)acetamide | 400 mg | OC1=C(CNC(C)=O)C=CC=C1 | C9H11NO2
